US08980877B2
(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (410 mg, 1.53 mmol) was hydrolyzed with AcOH (10 ml) and aqueous 20% HCl (10 ml) following the procedure described in Example 31, Step B, giving (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (400 mg, hydrochloride salt) as a pale yellow oil.

reactant | (E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 1.53 mmol, 410 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)C)OC2=CC1)=O)=O | C16H17NO4
reactant | HCl | 10 ml | Cl | ClH
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (E)-3-[1′-methyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 400 mg | CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C15H15NO4
